US08664257B2
(S)-3-{[1-(2-Fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid
82.8 ml of an aqueous 4 M solution of sodium hydroxide (331 mmol) were added to a solution of ethyl (S)-3-{[1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionate (70.4 g, 165 mmol) in 2-methyltetrahydrofuran (500 ml) at room temperature. The mixture was stirred at room temperature for 2 h, then at 40° C. for 2 h and then at room temperature for 16 h. The phases were separated and the aqueous phase acidified to pH 3 with hydrochloric acid. The product partially precipitated upon acidification. The aqueous filtrate was extracted with EA. The extracts were evaporated and the residue was washed with isopropyl acetate. The two batches were combined to give 53.6 g (82%) of the title compound as a white crystalline powder.

reactant | sodium hydroxide | 331 mmol | [OH-].[Na+]
reactant | ethyl (S)-3-{[1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionate | 165 mmol, 70.4 g | FC1=C(C=CC=C1)N1N=C(C=C1OC)C(=O)N[C@@H](CC(=O)OCC)C1=C(C=CC=C1)C | C23H24FN3O4
solvent | 2-methyltetrahydrofuran | 500 ml | CC1OCCC1 | C5H10O
product | (S)-3-{[1-(2-Fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid | 53.6 g, 82% | FC1=C(C=CC=C1)N1N=C(C=C1OC)C(=O)N[C@@H](CC(=O)O)C1=C(C=CC=C1)C | C21H20FN3O4
